US06828322B2
3-(2-Fluorophenyl)-7-(3-hydroxycyclobutyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 7-(3-benzyloxycyclobutyl)-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine (0.04 g, 0.082 mmol), excess ammonium formate (1.0 g), formic acid (1 ml) and 10% palladium on carbon (0.10 g) was stirred at 60° C. under nitrogen for 18 h, then cooled and concentrated. The residue was diluted with dichloromethane (20 ml) and washed with brine (20 ml). The organic layer was dried (Na2SO4), filtered and concentrated. Preparative thin layer chromatogaphy on silica gel, eluting with 10% methanol-dichloromethane, gave recovered 7-(3-benzyloxycyclobutyl)-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine (0.016 g, 40%) and 3-(2-fluorophenyl)-7-(3-hydroxycyclobutyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine (0.009 g, 28%) as a white solid, a 3:1 mixture of trans:cis isomers; 1H NMR (360 MHz, CDCl3) δ 2.08-2.18, 2.36-2.56 and 2.70-2.84 (4H, m), 3.00-3.08 and 3.70-3.78 (1H, m), 3.82 (3H, s), 4.36-4.40 and 4.44-4.58 (1H, m), 5.47 (2H, s), 7.24-7.32 (1H, m), 7.43-7.40 (1H, m), 7.54-7.60 (1H, m), 7.82-7.96 (3H, m); MS (ES+) m/e 396 [MH]+.

reactant | 7-(3-benzyloxycyclobutyl)-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | 0.082 mmol, 0.04 g | C(C1=CC=CC=C1)OC1CC(C1)C1=CC=2N(N=C1OCC=1N(N=CN1)C)C(=NN2)C2=C(C=CC=C2)F | C26H24FN7O2
reactant | ammonium formate | 1.0 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
solvent | formic acid | 1 ml | C(=O)O | CH2O2
product | 3-(2-Fluorophenyl)-7-(3-hydroxycyclobutyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | FC1=C(C=CC=C1)C1=NN=C2N1N=C(C(=C2)C2CC(C2)O)OCC=2N(N=CN2)C | C19H18FN7O2
